US04474754
3.50 Grams of Z-Ala-Gln-OH was dissolved in 50 ml of water and 30 ml of methanol, and the mixture was catalytically reduced by using palladium as a catalyst to obtain H-Ala-Gln-OH.

reactant | Z-Ala-Gln-OH | N([C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H21N3O6
solvent | water | 50 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | H-Ala-Gln-OH | N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C8H15N3O4
